US06433004B1
3-Allyl-hexahydro-cyclopenta[b]furan-2-one
Analogously to the procedure of Example 1, the title compound is was prepared from 1.2 g (9.5 nmuol) of hexahydro-cyclopenta[b]furan-2-one, 10 ml of 1 molar lithium bis-(trimethylsilyl)-amide solution in THF and 1.29 g (9.5 mmol) of allyl bromide in 20 ml of THF. Yield: 1.25 g (79%) of a colourless oil. 1H-NMR(200 MHz; [d6]-DMSO): δ[ppm]: 1.47-1.89 (br m,6H), 2.15-2.55 (br m,4H), 4.41 (m,1H), 5.12 (dd,1H), 5.18 (dd,1H), 5.76 (ddt,1H)

reactant | hexahydro-cyclopenta[b]furan-2-one | 1.2 g | O1C2C(CC1=O)CCC2 | C7H10O2
reactant | lithium bis-(trimethylsilyl)-amide | 1 molar, 10 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | allyl bromide | 9.5 mmol, 1.29 g | C(C=C)Br | C3H5Br
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Allyl-hexahydro-cyclopenta[b]furan-2-one | C(C=C)C1C2C(OC1=O)CCC2 | C10H14O2
